US06083955
Sodium (356 mg) was dissolved in 20 ml of methanol and 900 mg of N-[6-chloro-5-(4-methoxycarbonyl-2-propylphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide was added thereto with stirring at room temperature. The reaction mixture was stirred at room temperature for five hours and forty minutes, at 60° C. for one hour and fifty minutes and at room temperature overnight. After that, the mixture was poured into a mixture of IN hydrochloric acid and ice. Crystals separated out therefrom were collected by filtration and the resulting crystals were purified by a silica gel column chromatography (chloroform-ethanol=20:1). The resulting amorphous substance was crystallized in ether and collected by filtration to give 452 mg of N-[6-methoxy-5-(4-methoxycarbonyl-2-propylphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide.

reactant | Sodium | 356 mg | [Na] | Na
reactant | N-[6-chloro-5-(4-methoxycarbonyl-2-propylphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 900 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)OC)CCC | C27H24ClN5O5S
reactant | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | N-[6-methoxy-5-(4-methoxycarbonyl-2-propylphenoxy)-2-(2-pyrimidinyl)-4-pyrimidinyl]-2-phenylethenesulfonamide | 452 mg | COC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)OC)CCC | C28H27N5O6S
